US07259182B2
To a solution of 0.505 g (1.15 mmol) 1,5-bis-(4-trifluoromethoxy-phenyl)-1H-indole in 3 mL anhydrous THF was added 0.13 mL (2.9 mmol) oxalyl chloride. The solution was mixed at room temperature for 18 hr, upon which time the contents of the reaction vessel were drained into a vial containing 10 mL aqueous NaHCO3. The vial was capped and shaken and then the solution was acidified by the dropwise addition of 10 mL 2N aqueous HCl. The organic phase was removed and concentrated. The crude product was purified by RP-HPLC (See Note 1) to afford 0.142 g [1,5-bis-(4-trifluoromethoxy-phenyl)-1H-indol-3-yl]-oxo-acetic acid ethyl ester.

reactant | 1,5-bis-(4-trifluoromethoxy-phenyl)-1H-indole | 1.15 mmol, 0.505 g | FC(OC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C22H13F6NO2
reactant | oxalyl chloride | 2.9 mmol, 0.13 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
reactant | HCl | 2N, 10 mL | Cl | ClH
reactant | THF | 3 mL | C1CCOC1 | C4H8O
product | [1,5-bis-(4-trifluoromethoxy-phenyl)-1H-indol-3-yl]-oxo-acetic acid ethyl ester | 0.142 g | C(C)OC(C(=O)C1=CN(C2=CC=C(C=C12)C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F)=O | C26H17F6NO5
